US05101048
Preparation of 2,3,4-tri-O-acetyl-5-thio-α-D-xylopyranosyl trichloroacetimidate
1.5 ml (15.10-3 mol) of trichloroacetonitrile and 70 mg of NaH (2.3.10-3 mol of NaH in 80% dispersion) are added to a solution of 1 g (3.42.10-3 mol) of 2,3,4-tri-O-acetyl-5-thio-α-D-xylopyranose in 10 ml of methylene chloride. After 4 h at room temperature, the reaction medium is filtered on silica in methylene chloride and then purified by chromatography on silica gel using a hexane/ethyl acetate mixture (3/1 v/v) as the eluent. 790 mg (yield: 53%) of the expected product are obtained after crystallization from an ethyl acetate/hexane mixture.

reactant | trichloroacetonitrile | 15.10-3 mol, 1.5 ml | ClC(C#N)(Cl)Cl | C2Cl3N
reactant | NaH | 70 mg | [H-].[Na+]
reactant | 2,3,4-tri-O-acetyl-5-thio-α-D-xylopyranose | 1 g | C(C)(=O)O[C@H]1[C@@H](O)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C11H16O7S
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 2,3,4-tri-O-acetyl-5-thio-α-D-xylopyranosyl trichloroacetimidate | 790 mg, yield: 53% | ClC(C(O[C@@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)CS1)=N)(Cl)Cl | C13H16Cl3NO7S
